US07622579B2
[1-(3-Fluoro-4-methyl-phenyl)-piperidin-4-yl]-thiomorpholin-4-yl-methanone
The title compound was prepared from commercially available ethyl isonipecotate, 3-fluoro-4-methylbromobenzene as the aryl halide, and thiomorpholine as the secondary amine utilizing general procedures A and B described above. 1H NMR (300 MHz, CDCl3) 1H NMR (CDCl3) δ 7.02 (dd, J=7.2, 9.2 Hz, 1H), 6.63-6.55 (m, 2H), 3.90 (m, 2H), 3.80 (m, 2H), 3.70 (m, 1H), 3.65 (m, 1H), 2.75-2.51 (m, 7H), 2.17 (d, J=1.6 Hz, 3H), 2.01 (dd, J=3.3, 13.4 Hz, 1H), 1.91 (dd, J=4.0, 11.4Hz, 1H), 1.80 (m, 1H), 1.76 (m, 1H). ESI MS: 323.3 (MH+).

reactant | ethyl isonipecotate | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | 3-fluoro-4-methylbromobenzene | FC=1C=C(C=CC1C)Br | C7H6BrF
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | [1-(3-Fluoro-4-methyl-phenyl)-piperidin-4-yl]-thiomorpholin-4-yl-methanone | FC=1C=C(C=CC1C)N1CCC(CC1)C(=O)N1CCSCC1 | C17H23FN2OS
